US08541429B2
Step 1. N-(tert-butoxycarbonyl)-2-phenyl-D-alanine
To a suspension of 500 mg of 2-phenyl-D-alanine (3.02 mmol) and trimethylammonium hydroxide (aqueous solution 10%, 2.8 mL, 3.02 mmol) in 15 mL of acetonitrile, diterbutylcarbonate (1.047 g, 4.8 mmol) was added and the mixture was stirred at room temperature for 2 days. The solvent was then removed under vacuo, the residue was dissolved in water and washed with diethylether. The aqueous layer was acidified to pH=3-4 with citric acid and the product was extracted with ethyl acetate (3×20 mL). The combined organic phase was washed with water, dried over Na2SO4 and evaporated. The title product was recovered as white solid (630 mg, yield 78%).

reactant | 2-phenyl-D-alanine | 3.02 mmol, 500 mg | C1(=CC=CC=C1)[C@@](N)(C)C(=O)O | C9H11NO2
reactant | trimethylammonium hydroxide | 3.02 mmol, 2.8 mL | [OH-].C[NH+](C)C
reactant | diterbutylcarbonate | 4.8 mmol, 1.047 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | N-(tert-butoxycarbonyl)-2-phenyl-D-alanine | C(C)(C)(C)OC(=O)N[C@](C)(C(=O)O)C1=CC=CC=C1 | C14H19NO4
